US06197961B1
The procedure of Example 1 was repeated except the following. The same reactor as used in Example 1 was charged with 25.0 g (0.124 mole) of a γ-(4-pyridyl)butyric acid hydrochloride with a purity of at least 99%, 25.0 g of water and 1.25 g of 5% Rh/C [0.25% by weight in terms of Rh based on the γ-(4-pyridyl)butyric acid hydrochloride]. The reaction was conducted for 3 hours. A γ-(4-piperidyl)butyric acid hydrochloride was produced in a yield of 98%.

reactant | γ-(4-pyridyl)butyric acid hydrochloride | 0.124 mole, 25.0 g | Cl.N1=CC=C(C=C1)CCCC(=O)O
catalyst | Rh/C | 1.25 g | [Rh] | Rh
solvent | water | 25.0 g | O | H2O
product | γ-(4-piperidyl)butyric acid hydrochloride | yield of 98% | Cl.N1CCC(CC1)CCCC(=O)O | InChI=1S/C9H17NO2.ClH/c11-9(12)3-1-2-8-4-6-10-7-5-8;/h8,10H,1-7H2,(H,11,12);1H
